US07964607B2
6-[(3S,4S)-1-(3-methoxybenzyl)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting sodium cyanoborohydride and 3-methoxybenzaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.02 (s, 1H), 7.27-7.21 (m, 1H), 6.96-6.92 (m, 2H), 6.81 (d, J=7.1 Hz, 1H), 4.82-4.76 (m, 1H), 4.14-4.08 (m, 2H), 3.85 (s, 3H), 3.79 (s, 1H), 3.62-3.54 (m, 3H), 3.39 (t, J=8.7 Hz, 1H), 3.00 (d, J=10.3 Hz, 1H), 2.81 (m, 1H), 2.53 (m, 1H), 2.42-2.28 (m, 3H), 1.94-1.82 (m, 3H), 1.20 (d, J=7.1 Hz, 3H). MS: (M+H m/z 424.1).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | 3-methoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
product | 6-[(3S,4S)-1-(3-methoxybenzyl)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | COC=1C=C(CN2C[C@H]([C@@H](C2)C)C=2NC(C3=C(N2)N(N=C3)C3CCOCC3)=O)C=CC1 | C23H29N5O3
